US09315462B2
Step 2: Synthesis of 2-chloro-6-methoxyquinolin-4-amine
A suspension of 2,4-dichloro-6-methoxyquinoline (5.00 g, 22.0 mmol) in NH3 (g)/MeOH (saturated, 40 mL) was heated to 150° C. for 16 hours in a sealed tube. The solvent was removed and the residue was diluted with MeOH (20 mL). The mixture was filtered off and the filtrate was concentrated to give the crude product. Purification by column chromatography on silica gel (PE/EtOAc=2/1) gave product (7.50 g, yield: 55%) as a solid.

reactant | 2,4-dichloro-6-methoxyquinoline | 22.0 mmol, 5.00 g | ClC1=NC2=CC=C(C=C2C(=C1)Cl)OC | C10H7Cl2NO
reactant | MeOH | 40 mL | CO | CH4O
reactant | NH3 | N | H3N
product | 2-chloro-6-methoxyquinolin-4-amine | 7.50 g, yield: 55% | ClC1=NC2=CC=C(C=C2C(=C1)N)OC | C10H9ClN2O
